US08067445B2
Step 1: {2′-[(Methanesulfonyl-phenethyl-amino)-methyl]-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl}-acetic acid methyl ester
To [6-methoxy-2′-(phenethylamino-methyl)-4′-trifluoromethyl-biphenyl-3-yl]-acetic acid methyl ester (0.068 g, 0.15 mmol) and triethylamine (0.02 mL, 0.16 mmol) in CH2Cl2 (1 mL) was added methanesulfonyl chloride (0.01 mL, 0.16 mmol), and the mixture was stirred for 1 hour. Starting material was still present by analytical LCMS, so additional methanesulfonyl chloride was added, and the reaction was stirred overnight at room temperature. Additional methanesulfonyl chloride and triethylamine was added after 20 hours to push the reaction to completion. The solution was then diluted with CH2Cl2 and H2O, and the aqueous layer was separated and extracted with CH2Cl2. The combined organic layers were dried over MgSO4, filtered, and concentrated, and the residue was purified by silica gel chromatography to give the title compound.

reactant | [6-methoxy-2′-(phenethylamino-methyl)-4′-trifluoromethyl-biphenyl-3-yl]-acetic acid methyl ester | 0.15 mmol, 0.068 g | COC(CC=1C=C(C(=CC1)OC)C1=C(C=C(C=C1)C(F)(F)F)CNCCC1=CC=CC=C1)=O | C26H26F3NO3
reactant | triethylamine | 0.16 mmol, 0.02 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.16 mmol, 0.01 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | CH2Cl2 | 1 mL | C(Cl)Cl | CH2Cl2
solvent | H2O | O | H2O
product | {2′-[(Methanesulfonyl-phenethyl-amino)-methyl]-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl}-acetic acid methyl ester | COC(CC=1C=C(C(=CC1)OC)C1=C(C=C(C=C1)C(F)(F)F)CN(CCC1=CC=CC=C1)S(=O)(=O)C)=O | C27H28F3NO5S
